US09102637B2
(c) 5-(4-fluorobenzamido)-2-(quinolin-6-ylamino)thiazole-4-carboxamide
To solution of 4-fluorobenzoyl chloride (0.16 g, 1.2 mmol) in pyridine (5 mL) was added dropwise a solution of 5-amino-2-(quinolin-6-ylamino)thiazole-4-carboxamide (0.30 g, 1.05 mmol) and a catalytic amount of DMAP in pyridine (5 mL) at 0° C., and the mixture was stirred for 16 hrs at rt. The reaction mixture was quenched with ice-water. The resulting solids were collected by filtration and washed successively with water, MeOH and ether to give 0.18 g (42% yield) of the titled compound.

reactant | 4-fluorobenzoyl chloride | 1.2 mmol, 0.16 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 5-amino-2-(quinolin-6-ylamino)thiazole-4-carboxamide | 1.05 mmol, 0.30 g | NC1=C(N=C(S1)NC=1C=C2C=CC=NC2=CC1)C(=O)N | C13H11N5OS
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 5-(4-fluorobenzamido)-2-(quinolin-6-ylamino)thiazole-4-carboxamide | 0.18 g, 42% yield | FC1=CC=C(C(=O)NC2=C(N=C(S2)NC=2C=C3C=CC=NC3=CC2)C(=O)N)C=C1 | C20H14FN5O2S
